US08703797B2
N-(2,5-Dimethylphenyl)-3-oxobutanamide:
A mixture of 2,5-dimethylaniline (1.00 g, 8.25 mmol) and ethyl 3-oxobutanoate (1.0 mL, 1.0 eq) was microwaved at 180° C. for 5 minutes. After the reaction mixture was cooled to room temperature, it was triturated with hexane. The resulting precipitate was filtered and dried under high vacuum to yield the desired title compound. Spectroscopic data: 1H NMR (300 MHz, CDCl3) δ ppm 2.28 (s, 3 H) 2.32 (s, 3 H) 2.34 (s, 3 H) 3.63 (s, 2 H) 6.88 (d, J=7.62 Hz, 1 H) 7.07 (d, J=7.62 Hz, 1 H) 7.75 (s, 1 H) 9.00-9.12 (m, 1 H).

reactant | 2,5-dimethylaniline | 8.25 mmol, 1.00 g | CC1=C(N)C=C(C=C1)C | C8H11N
reactant | ethyl 3-oxobutanoate | 1.0 mL, 1.0 eq | O=C(CC(=O)OCC)C | C6H10O3
product | N-(2,5-Dimethylphenyl)-3-oxobutanamide | CC1=C(C=C(C=C1)C)NC(CC(C)=O)=O | C12H15NO2
